US04734410
1(a) Ethyl 5-cyano-5-phenylvalerate
5 g of sodium hydride (as a 55% w/w dispersion in mineral oil) were added slowly to a solution of 11.7 g of phenylacetonitrile and 19.5 g of ethyl 4-bromobutyrate in 150 ml of dimethylformamide, and the reaction mixture was stirred for 4 hours at room temperature. It was then dissolved in ethyl acetate and water. The ethyl acetate layer was separated, washed with an aqueous solution of potassium bisulfate and then with an aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate and concentrated by evaporation under reduced pressure. The oily residue was subjected to silica gel column chromatography using a 1:4 by volume mixture of ethyl acetate and cyclohexane as eluent, to give 13.5 g of the title compound as a colorless liquid.

reactant | sodium hydride | 5 g | [H-].[Na+]
reactant | phenylacetonitrile | 11.7 g | C1(=CC=CC=C1)CC#N | C8H7N
reactant | ethyl 4-bromobutyrate | 19.5 g | BrCCCC(=O)OCC | C6H11BrO2
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | Ethyl 5-cyano-5-phenylvalerate | 13.5 g | C(#N)C(CCCC(=O)OCC)C1=CC=CC=C1 | C14H17NO2
